US07582753B2
[5-Cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid
To a solution of (5-cyclohexyl-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl)-acetic acid ethyl ester (50 g, 151.7 mmol) in DMF (250 mL) was added potassium carbonate (325 mesh, 102 g, 738 mmol) and tetrabutylammonium iodide (46.0 g, 124.5 mmol). The resulting mixture was heated to about 50-55° C. and while at this temperature, 2-chloro-1-cyclopentylethanone (57.0 g, 373.5 mmol) was added drop-wise over a period of about 1 hr. The reaction mixture was then aged for 1 hr, cooled to ambient temperature and diluted with MTBE (50 mL). The inorganic solids were removed by filtration and rinsed with additional MTBE (50 mL). To the combined filtrates was added DMF (50 mL) and the resulting mixture was treated with 3N NaOH (150 mL), then stirred at −30° C. for about 1 hr. The reaction mixture was then again diluted with MTBE (100 mL) and the layers were separated. The aqueous layer was poured slowly under vigorous agitation, into another flask containing cold 2N HCl solution (400 mL) which was maintained at ˜5° C. Isopropyl acetate (300 mL) was added to the reaction mixture and the layers were separated. The organic layer was rinsed with water (300 mL) and then diluted with n-heptane (300 mL), at which point a solid was observed to precipitate. The precipitate was filtered and dried under vacuum to constant weight to yield the title compound as an off-white solid.

reactant | (5-cyclohexyl-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl)-acetic acid ethyl ester | 151.7 mmol, 50 g | C(C)OC(CN1N=C(C2=C(NC1=O)C=CC=C2)C2CCCCC2)=O | C18H23N3O3
reactant | potassium carbonate | 738 mmol, 102 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-1-cyclopentylethanone | 373.5 mmol, 57.0 g | ClCC(=O)C1CCCC1 | C7H11ClO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 124.5 mmol, 46.0 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | MTBE | 50 mL | CC(C)(C)OC | C5H12O
product | [5-Cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid | C1(CCCCC1)C=1C2=C(N(C(N(N1)CC(=O)O)=O)CC(=O)C1CCCC1)C=CC=C2 | C23H29N3O4
